US08633173B2
N-Methyl-N-(3-{2-[4-(1-methyl-piperidin-4-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-benzyl)-methanesulfonamide was prepared from N-[3-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-benzyl]-N-methyl-methanesulfonamide (75.0 mg, 0.214 mmol) and 4-(1-methyl-piperidin-4-yl)-phenylamine (45.0 mg, 0.236 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (24.0 mg, 0.0439 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.039 g, 36%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.43 (d, J=6.5 Hz, 1H), 7.99 (d, J=7.8 Hz, 1H), 7.96 (s, 1H), 7.59 (d, J=7.1 Hz, 1H), 7.55-7.50 (m, 3H), 7.42 (d, J=7.5 Hz, 1H), 7.21 (d, J=8.3 Hz, 2H), 6.96 (t, J=7.0 Hz, 1H), 6.81 (s, 1H), 4.42 (s, 2H), 3.01-2.94 (m, 2H), 2.87 (s, 3H), 2.83 (s, 3H), 2.50-2.40 (m, 1H), 2.33 (s, 3H), 2.09-2.00 (m, 2H), 1.87-1.73 (m, 4H). MS=505 (MH)+.

reactant | N-[3-(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-benzyl]-N-methyl-methanesulfonamide | 0.214 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)C=2C=C(CN(S(=O)(=O)C)C)C=CC2)=N1 | C15H15ClN4O2S
reactant | 4-(1-methyl-piperidin-4-yl)-phenylamine | 0.236 mmol, 45.0 mg | CN1CCC(CC1)C1=CC=C(C=C1)N | C12H18N2
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0439 mmol, 24.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(3-{2-[4-(1-methyl-piperidin-4-yl)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-8-yl}-benzyl)-methanesulfonamide | CN(S(=O)(=O)C)CC1=CC(=CC=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)C | C27H32N6O2S
